US04259504
3-(4H-1,2,4-Triazol-3-yl)-pyridine
To a solution of 3.1 g. of hydrazine hydrate in 100 ml. of acetic acid is added 10.0 g. of N-(dimethylaminomethylene)nicotinamide. The reaction mixture is stirred at 90° C. for 1.5 hours, then concentrated in vacuo to about 15 ml. The addition of 50 ml. of ether causes the desired product to precipitate as 7.8 g. of colorless crystals, mp. 169°-172° C.

reactant | hydrazine hydrate | O.NN
reactant | N-(dimethylaminomethylene)nicotinamide | CN(C)C=NC(C1=CN=CC=C1)=O | C9H11N3O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(4H-1,2,4-Triazol-3-yl)-pyridine | N=1N=C(NC1)C=1C=NC=CC1 | C7H6N4
